US06953857B2
(ii) 4′-Aminomethyl-biphenyl-2-sulfonic acid amide hydrochloride
400 mg of 4′-Aminomethyl-biphenyl-2-sulfonic acid dimethylaminomethyleneamide were treated with 10 ml MeOH and 4 ml conc. HCl and refluxed for 1 h. Solvent and HCl were evaporated and the product used without purification.

reactant | 4′-Aminomethyl-biphenyl-2-sulfonic acid dimethylaminomethyleneamide | 400 mg | CN(C)C=NS(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN | C16H19N3O2S
reactant | HCl | 4 ml | Cl | ClH
solvent | MeOH | 10 ml | CO | CH4O
product | 4′-Aminomethyl-biphenyl-2-sulfonic acid amide hydrochloride | Cl.NCC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N | InChI=1S/C13H14N2O2S.ClH/c14-9-10-5-7-11(8-6-10)12-3-1-2-4-13(12)18(15,16)17;/h1-8H,9,14H2,(H2,15,16,17);1H
